US07732446B1
To a solution of (6,8-dimethoxy-4-thioureido-isoquinolin-1-ylmethyl)carbamic acid tert-butyl ester (62 mg, 0.158 mmol) and ethyl bromopyruvate (37.7 mg, 0.174 mmol) in acetone (1.6 mL) was added MgSO4 (9.5 mg, 0.079 mmol). The resulting suspension was stirred at 60° C. for 3 h. The reaction was cooled to RT and concentrated. The residue was purified by passing through a 5 g silica cartridge eluting with 2% MeOH in DCM to give 2-[1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinolin-4-ylamino]thiazole-4-carboxylic acid ethyl ester as a pale yellow solid (32.5 mg, 42%). 1H-NMR (CDCl3): δ, 8.53 (s, 1H), 7.47 (s, 1H), 6.82 (s, 1H), 6.61 (s, 1H), 5.07 (d, 2H, J=4.2 Hz), 4.41 (q, 2H, J=7.2 Hz), 4.00 (s, 3H), 3.89 (s, 3H), 1.52 (s, 9H), 1.41 (t, 3H, J=7.3 Hz); MS: calculated for C23H28N4O6S+H 489.0; found: 489.0.

reactant | (6,8-dimethoxy-4-thioureido-isoquinolin-1-ylmethyl)carbamic acid tert-butyl ester | 0.158 mmol, 62 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)NC(=S)N)=O | C18H24N4O4S
reactant | ethyl bromopyruvate | 0.174 mmol, 37.7 mg | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | MgSO4 | 0.079 mmol, 9.5 mg | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | acetone | 1.6 mL | CC(=O)C | C3H6O
product | 2-[1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinolin-4-ylamino]thiazole-4-carboxylic acid ethyl ester | 32.5 mg, 42% | C(C)OC(=O)C=1N=C(SC1)NC1=CN=C(C2=C(C=C(C=C12)OC)OC)CNC(=O)OC(C)(C)C | C23H28N4O6S
